US07786165B2
methyl 4-methyl-3-[(methylsulfonyl)oxy]benzoate
To a solution of methyl 3-hydroxy-4-methylbenzoate (3.0 g, 18.1 mmol) in pyridine (20 mL) was added methanesulfonyl chloride (2.80 mL, 36.1 mmol) under stirring at 0° C., and the mixture was stirred at room temperature for 3 hr. The solvent was evaporated under reduced pressure, and the residue was partitioned between ethyl acetate and 1 N hydrochloric acid. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-hexane/ethyl acetate=1/1) to give the title compound (4.11 g, yield 93%) as a yellow oil.

reactant | methyl 3-hydroxy-4-methylbenzoate | 18.1 mmol, 3.0 g | OC=1C=C(C(=O)OC)C=CC1C | C9H10O3
reactant | methanesulfonyl chloride | 36.1 mmol, 2.80 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | methyl 4-methyl-3-[(methylsulfonyl)oxy]benzoate | 4.11 g, yield 93% | CC1=C(C=C(C(=O)OC)C=C1)OS(=O)(=O)C | C10H12O5S
